* source PROGRAMMABLETRANSITIONFINDER
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N01732 IO_STM IO_LEVEL=0 
+ 0 0
+ +.2us 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01774 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 2us 1  
+ 12us 0  
+ 14us 1 
X_PTF_U1C         PTF_N00280 PTF_N01283 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PTF_U6B         $D_HI PTF_N00134 N01732 $D_HI PTF_N00125 M_UN0001 $G_DPWR
+  $G_DGND 74HC74 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PTF_U4B         $D_HI N01771 N01732 $D_HI PTF_N00087 M_UN0002 $G_DPWR $G_DGND
+  74HC74 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PTF_U1A         $D_HI PTF_CBAR0 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PTF_U1B         $D_LO PTF_CBAR1 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PTF_U1D         $D_LO PTF_CBAR2 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PTF_U5A         PTF_N00134 PTF_N00125 PTF_N00270 $G_DPWR $G_DGND 74HC7266
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PTF_U6A         $D_HI N01774 N01732 $D_HI PTF_N00134 M_UN0003 $G_DPWR $G_DGND
+  74HC74 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PTF_U1E         $D_LO PTF_CBAR3 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PTF_U4A         PTF_N01283 $D_HI PTF_N00134 $D_HI N01771 M_UN0004 $G_DPWR
+  $G_DGND 74HC74 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PTF_U3         N01732 PTF_N00087 $D_HI $D_HI PTF_N00270 PTF_CBAR0 PTF_CBAR1
+  PTF_CBAR2 PTF_CBAR3 M_UN0005 M_UN0006 M_UN0007 M_UN0008 PTF_N00280 $G_DPWR
+  $G_DGND 74HC161 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
