* source SYMMETRICDECADECOUNTER
X_CNT_U2A         N012701 $D_HI CNT_JC CNT_JC CNT_JB CNT_N00137 $G_DPWR $G_DGND
+  74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U1B         N012701 $D_HI CNT_JB CNT_JB CNT_N00099 CNT_N00130 $G_DPWR
+  $G_DGND 74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U3A         CNT_N00099 CNT_JB CNT_JA $G_DPWR $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U3B         CNT_N00130 CNT_N00137 CNT_KA $G_DPWR $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U1A         N012701 $D_HI CNT_JA CNT_KA CNT_N00092 CNT_JC $G_DPWR $G_DGND
+  74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U4A         CNT_N00092 CNT_N00130 CNT_N00137 CNT_TD $G_DPWR $G_DGND
+  74HC11 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U2B         N012701 $D_HI CNT_TD CNT_TD N01284 M_UN0001 $G_DPWR $G_DGND
+  74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N012701 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
