* source SYNCHRONOUSCOUNTER
X_CNT_U3A         I3 $D_HI CNT_N020312 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U2B         CNT_N020312 M_UN0001 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U2C         CNT_N021230 M_UN0002 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U4B         I1 I2 I3 $D_HI CNT_N023170 $G_DPWR $G_DGND 74HC20 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U2D         CNT_N023170 CNT_N01937 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U1         $D_HI I3 $D_HI I2 $D_HI I1 $D_HI I0 CNT_N025638 $G_DPWR
+  $G_DGND 74HC30 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U5A         N00014 $D_HI $D_HI $D_HI I3 M_UN0003 $G_DPWR $G_DGND 74HC73
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U5B         N00014 $D_HI CNT_N01917 CNT_N01917 I2 M_UN0004 $G_DPWR
+  $G_DGND 74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U6A         N00014 $D_HI CNT_N01927 CNT_N01927 I1 M_UN0005 $G_DPWR
+  $G_DGND 74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U6B         N00014 $D_HI CNT_N01937 CNT_N01937 I0 M_UN0006 $G_DPWR
+  $G_DGND 74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U4A         $D_HI I2 I3 $D_HI CNT_N021230 $G_DPWR $G_DGND 74HC20 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_U2A         CNT_N025638 N00035 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N00014 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
X_CNT_1_U3A         I7 N00035 CNT_1_N020312 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_1_U2B         CNT_1_N020312 M_UN0007 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_1_U2C         CNT_1_N021230 M_UN0008 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_1_U4B         I5 I6 I7 N00035 CNT_1_N023170 $G_DPWR $G_DGND 74HC20
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_1_U2D         CNT_1_N023170 CNT_1_N01937 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_1_U1         N00035 I7 $D_HI I6 $D_HI I5 $D_HI I4 CNT_1_N025638 $G_DPWR
+  $G_DGND 74HC30 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_1_U5A         N00014 $D_HI N00035 N00035 I7 M_UN0009 $G_DPWR $G_DGND
+  74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_1_U5B         N00014 $D_HI CNT_1_N01917 CNT_1_N01917 I6 M_UN0010 $G_DPWR
+  $G_DGND 74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_1_U6A         N00014 $D_HI CNT_1_N01927 CNT_1_N01927 I5 M_UN0011 $G_DPWR
+  $G_DGND 74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_1_U6B         N00014 $D_HI CNT_1_N01937 CNT_1_N01937 I4 M_UN0012 $G_DPWR
+  $G_DGND 74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_1_U4A         $D_HI I6 I7 N00035 CNT_1_N021230 $G_DPWR $G_DGND 74HC20
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNT_1_U2A         CNT_1_N025638 RCO $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
