* source TRANSITIONFINDER
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND DATA IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +7uS 0
+  +25uS 1
+ ENDREPEAT
X_TF1_U2B         $D_HI TF1_N4087053 CLK $D_HI TF1_N4512807 TF1_N4512686
+  $G_DPWR $G_DGND 74HC74 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_TF1_U2A         $D_HI DATA CLK $D_HI TF1_N4087053 TF1_N4512956 $G_DPWR
+  $G_DGND 74HC74 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_TF1_U6B         TF1_N4512686 TF1_N4087053 N4510972 $G_DPWR $G_DGND 74HC08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_TF1_U6A         TF1_N4512956 TF1_N4512807 N4510977 $G_DPWR $G_DGND 74HC08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
